US06855715B1
To a solution of 5-fluoro-6-hydroxy-1-methanesulphonylindole (0.57 mg, 2.49 mmol) in dry dichloromethane (20 ml) at 0° C. was added pyridine (0.24 ml, 2.99 mmol) and then trifluoromethanesulphonic anhydride (0.50 ml, 2.99 mmol) and the mixture stirred for 2 h. The reaction mixture was washed with 0.5% hydrochloric acid (2×50 ml), sodium bicarbonate solution (2×50 ml) and water (50 ml), dried (MgSO4) and filtered through a short pad of silica. Evaporation of solvent in vacuo gave 5-fluoro-1-methanesulphonyl-6-trifluoromethanesulphonyloxy-indole, (0.67 g)

reactant | 5-fluoro-6-hydroxy-1-methanesulphonylindole | 2.49 mmol, 0.57 mg | FC=1C=C2C=CN(C2=CC1O)S(=O)(=O)C | C9H8FNO3S
reactant | pyridine | 2.99 mmol, 0.24 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulphonic anhydride | 2.99 mmol, 0.50 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 5-fluoro-1-methanesulphonyl-6-trifluoromethanesulphonyloxy-indole | 0.67 g | FC=1C=C2C=CN(C2=CC1OS(=O)(=O)C(F)(F)F)S(=O)(=O)C | C10H7F4NO5S2
